US05767116
A mixture of 5-methoxy-2H-1-benzopyran-3-carboxylic acid (12.25 g, prepared in a similar manner to that described above), 10% palladium-on-carbon catalyst (3 g) and ethanol (250 ml) was hydrogenated at 1 atmosphere for 1 hour. Hydrogen uptake was slow, so further catalyst (3 g) was added, and hydrogenation continued for 5 hours. The mixture was filtered and the solvent removed in vacuo to leave a semisolid which crystallised from 2-propanol to give a mass of pale yellow crystals which was broken up, collected by filtration, washed with ice-cold 2-propanol, dried in vacuo, ground to a powder, and redried in vacuo to give 5-methoxy-3,4-dihydro-2H-1-benzopyran-3-carboxylic acid as a buff powder (7.4 g), m.p. 147°-150° C.

reactant | 5-methoxy-2H-1-benzopyran-3-carboxylic acid | COC1=CC=CC2=C1C=C(CO2)C(=O)O | C11H10O4
reactant | Hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 3 g | [Pd] | Pd
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 5-methoxy-3,4-dihydro-2H-1-benzopyran-3-carboxylic acid | COC1=CC=CC2=C1CC(CO2)C(=O)O | C11H12O4
